US08471005B2
In a 10 mL sealed tube, to N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (100 mg, 0.289 mmol) and N,N-Diisopropylethylamine (0.202 mL, 1.16 mmol) in 3.0 mL of anhydrous DMF was added N-Phenylbis(trifluoromethane-sulfonimide (113 mg, 0.318 mmol). After stirring at room temperature for 30 minutes, 2-Methoxy-4-(1-methyl-piperidin-4-yl)-phenylamine (84 mg, 0.36 mmol) was added. The reaction mixture was heated at 65° C. overnight. The reaction was conc. in vacuo. The reaction mixture was purified via silica gel column chromatography using 500:12:8 DCM:MeOH:7N NH3/MeOH as the eluant. The collected fractions afforded N-tert-Butyl-3-{2-[2-methoxy-4-(1-methyl-piperidin-4-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide as a yellow solid (19.66 mg, 11%). MP 189-198° C. LCMS (E/I+) 549.21 (M+H). 1H NMR (DMSO-d6)-9.01 (s, 1H), 8.56 (s, 1H), 8.35 (d, 1H, J=7.88 Hz), 7.99 (d, 1H, J=8.56 Hz), 7.85 (s, 1H), 7.83 (s, 1H), 7.69 (t, 1H, J=7.82 Hz), 7.62 (s, 1H), 7.23 (d, 1H, J=4.72 Hz), 7.01 (d, 1H, J=4.76 Hz), 6.94 (s, 1H), 6.92 (s, 1H), 3.87 (s, 3H), 2.96-2.83 (m, 2H), 2.28-2.17 (s, 3H), 2.10-1.94 (m, 2H), 1.80-1.58 (m, 3H), 1.32-1.21 (m, 1H), 1.12 (s, 9H).

reactant | N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.289 mmol, 100 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | N,N-Diisopropylethylamine | 1.16 mmol, 0.202 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethane-sulfonimide | 0.318 mmol, 113 mg | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
reactant | 2-Methoxy-4-(1-methyl-piperidin-4-yl)-phenylamine | 0.36 mmol, 84 mg | COC1=C(C=CC(=C1)C1CCN(CC1)C)N | C13H20N2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | N-tert-Butyl-3-{2-[2-methoxy-4-(1-methyl-piperidin-4-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | 19.66 mg, 11% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCN(CC2)C)OC | C29H36N6O3S
